US06897225B1
5-(4-Cyano-α-hydroxybenzyl)-3-(3,5-dichlorophenyl)1,3-diazabicyclo[3.3.0]octane-2,4-dione
To a solution of 3-(3,5-dichlorophenyl)-1,3-diazabicyclo[3.3.0]octane-2,4-dione, (5.63 g) in anhydrous THF (20 mL) at −78° C. was added LDA prepared from n-BuLi (13.6 mL) and diisopropylamine (3.33 mL). The reaction mixture was stirred at −78° C. for 30 minutes then at 0° C. for 1 hour. To this mixture was added in one portion 4-cyanobenzaldehyde (3.64 g). The reaction mixture was allowed to warm to room temperature for 3 hours then poured onto 1 N HCl (50 mL). The mixture was extracted with EtOAc and the combined organic layers were dried over Na2SO4, filtered and the solvent evaporated. The residue was purified by chromatography (SiO2, hexanes to 1:1 hexanes/EtOAc gradient elution) and HPLC (18C-Waters 40×210 mm, 1% HOAc/CH3CN gradient) to provide the titled product (5.5 g). MS (m/z) 416 (MH+); mp. 184.4° C.

reactant | 3-(3,5-dichlorophenyl)-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 5.63 g | ClC=1C=C(C=C(C1)Cl)N1C(N2CCCC2C1=O)=O | C12H10Cl2N2O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-BuLi | 13.6 mL | [Li]CCCC
reactant | diisopropylamine | 3.33 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-cyanobenzaldehyde | 3.64 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | HCl | 1 N, 50 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(4-Cyano-α-hydroxybenzyl)-3-(3,5-dichlorophenyl)1,3-diazabicyclo[3.3.0]octane-2,4-dione | 5.5 g | C(#N)C1=CC=C(C(O)C23C(N(C(N3CCC2)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C20H15Cl2N3O3
